US06441004B1
Methanesulphonyl chloride (1 ml) added to a solution of N-(3,4-dichlorobenzyl)indole-2-carboxylic acid (0.23 g) in pyridine at 0° C., and reaction stirred for 2 hours. Ammonia gas was then bubbled through the reaction mixture for 15 mins and then concentrated in vacuo. The residue was dissolved in fresh pyridine, cooled to 0° C. and methanesulphonyl chloride (1 ml) added dropwise. The reaction was stirred for 16 hours, then concentrated in vacuo and residue partitioned between 1N HCl and dichloromethane. Combined organic extracts were dried (MgSO4) and concentrated and the resulting solid purified by column chromatography using dichloromethane-10% ethyl acetate as eluent to give N-(3,4dichlorobenzyl)-2-cyanoindole as yellow crystals (58 mg, 27%); NMR δ(CD3SOCD3) 5.82 (s, 2H), 6.95-7.70 (m, 7H), 8.03 (m, 1H); M/z (+) 300 (M+), 161, 159; followed by N-(3,4-dichlorobenzyl) indole-2-carboxamide as yellow crystals (37 mg, 16%); M/z (+) 318(M+), 274, 161, 159,71,57.

reactant | Methanesulphonyl chloride | 1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(3,4-dichlorobenzyl)indole-2-carboxylic acid | 0.23 g | ClC=1C=C(CN2C(=CC3=CC=CC=C23)C(=O)O)C=CC1Cl | C16H11Cl2NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(3,4dichlorobenzyl)-2-cyanoindole | 58 mg, 27% | ClC=1C=C(CN2C(=CC3=CC=CC=C23)C#N)C=CC1Cl | C16H10Cl2N2
